* C:\Users\DELL\Documents\LTspice\Automatic_Night_Lamp.asc
* Generated by LTspice 26.0.2 for Windows.
R1 N001 N004 22k
RLDR N004 0 {RLDR}
RB N005 N004 4.7k
RLED N002 N003 560
Q1 N003 N005 0 0 2N3904
V1 N001 0 9V
D1 N001 N002 D
.model D D
.lib C:\Users\DELL\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\DELL\AppData\Local\LTspice\lib\cmp\standard.bjt
.param RLDR=30k
.op
.backanno
.end
